US08217069B2
To a mixture of 4-chloro-2-methoxy-5-nitroaniline (0.3 g) and sodium hydrogen carbonate (0.37 g) in tetrahydrofuran (4.5 mL) was added acetyl chloride (0.12 mL), and the mixture was stirred at room temperature for 5 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with 1 mol/L hydrochloric acid, water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane−n-hexane/ethyl acetate=3/7) to give N-(4-chloro-2-methoxy-5-nitrophenyl)acetamide (0.24 g). This material was dissolved in N,N-dimethylformamide (5 mL). To the solution were added 2,3-difluoro-6-methoxybenzyl bromide (0.28 g) and sodium hydride (55%, 48 mg) under ice-cooling, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in tetrahydrofuran (4 mL). To the solution were added methanol (4 mL) and nickel(II) bromide (11 mg). To the mixture was added sodium borohydride (0.11 g) under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes, and then stirred at room temperature for 30 minutes. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane−n-hexane/ethyl acetate=3/7) to give the title compound (0.27 g).

reactant | 4-chloro-2-methoxy-5-nitroaniline | 0.3 g | ClC1=CC(=C(N)C=C1[N+](=O)[O-])OC | C7H7ClN2O3
reactant | sodium hydrogen carbonate | 0.37 g | C(O)([O-])=O.[Na+]
reactant | acetyl chloride | 0.12 mL | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 4.5 mL | O1CCCC1 | C4H8O
product | N-(4-chloro-2-methoxy-5-nitrophenyl)acetamide | 0.24 g | ClC1=CC(=C(C=C1[N+](=O)[O-])NC(C)=O)OC | C9H9ClN2O4
